US06528543B1
A solution of freshly prepared lithium diisopropylamide (23 mL of a 0.31 M stock solution, 7.13 mmol) cooled to −78° C. was treated with phenyl-acetic acid ethyl ester (1.06 g, 6.48 mmol) in tetrahydrofuran/hexamethylphosphoramide (16.1 mL, 3:1). The resulting solution was stirred at −78° C. for 45 min. At this time, the reaction was treated with a solution of iodomethylcyclopentane (1.50 g, 7.14 mmol) in hexamethylphosphoramide (1.5 mL). The mixture was stirred at −78° C. for 4 h. The reaction was then warmed to 25° C. and was stirred at 25° C. for 48 h. The reaction mixture was then quenched by the dropwise addition of a saturated aqueous ammonium chloride solution (5 mL). The reaction mixture was poured into water (100 mL) and extracted with ethyl acetate (2×100 mL). The organics were washed with a saturated aqueous lithium chloride solution (2×50 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 95/5 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-phenyl-propionic acid ethyl ester (1.70 g, quant.) as a pale yellow oil: EI-HRMS m/e calcd for C16H22O2 (M+) 247.1698, found 247.1704.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | phenyl-acetic acid ethyl ester | 6.48 mmol, 1.06 g | C(C)OC(CC1=CC=CC=C1)=O | C10H12O2
reactant | iodomethylcyclopentane | 7.14 mmol, 1.50 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran hexamethylphosphoramide | 16.1 mL | O1CCCC1.CN(P(=O)(N(C)C)N(C)C)C
solvent | hexamethylphosphoramide | 1.5 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 3-cyclopentyl-2-phenyl-propionic acid ethyl ester | 1.70 g | C(C)OC(C(CC1CCCC1)C1=CC=CC=C1)=O | C16H22O2
